US09359305B2
Compound number 260 (i.e., 6-chloro-5-(2,4-dichlorophenyl)-2-trifluoromethylbenzimidazole) was prepared as follows. A 100-mL round-bottom flask was purged and maintained with an inert atmosphere of nitrogen. (2,4-dichlorophenyl)boronic acid (229 mg, 1.20 mmol, 2.00 equiv), dioxane (30 mL), 5-chloro-6-iodo-2-(trifluoromethyl)-1H-1,3-benzodiazole (200 mg, 0.58 mmol, 1.00 equiv), sodium carbonate (191 mg), water (8 mL) and Pd(PPh3)4 (34.7 mg) was placed in the flask. The resulting solution was stirred overnight at 80° C. in an oil bath. The resulting mixture was concentrated under vacuum. The residue was applied onto a silica gel column with ethyl acetate/petroleum ether (1:4). This resulted in 87.8 mg (42%) of 6-chloro-5-(2,4-dichlorophenyl)-2-trifluoromethylbenzimidazole as a white solid.

reactant | (2,4-dichlorophenyl)boronic acid | 1.20 mmol, 229 mg, 2.00 equiv | ClC1=C(C=CC(=C1)Cl)B(O)O | C6H5BCl2O2
reactant | dioxane | 30 mL | O1CCOCC1 | C4H8O2
reactant | 5-chloro-6-iodo-2-(trifluoromethyl)-1H-1,3-benzodiazole | 0.58 mmol, 200 mg, 1.00 equiv | ClC1=CC2=C(NC(=N2)C(F)(F)F)C=C1I | C8H3ClF3IN2
reactant | sodium carbonate | 191 mg | C([O-])([O-])=O.[Na+].[Na+]
catalyst | Pd(PPh3)4 | 34.7 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | 8 mL | O | H2O
product | 6-chloro-5-(2,4-dichlorophenyl)-2-trifluoromethylbenzimidazole | ClC=1C(=CC2=C(N=C(N2)C(F)(F)F)C1)C1=C(C=C(C=C1)Cl)Cl | C14H6Cl3F3N2
